US07285563B2
N-(4-cyanophenyl)-N′-[quinolin-6-yl]urea
Prepared from 6-aminoquinoline and 4-cyanophenyl isocyanate. m/z (ES+) 289 (M+H)+.

reactant | 6-aminoquinoline | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | 4-cyanophenyl isocyanate | C(#N)C1=CC=C(C=C1)N=C=O | C8H4N2O
product | N-(4-cyanophenyl)-N′-[quinolin-6-yl]urea | C(#N)C1=CC=C(C=C1)NC(=O)NC=1C=C2C=CC=NC2=CC1 | C17H12N4O
